US08748650B2
Under a nitrogen atmosphere, 430 mg (2 mmol) of diphenyl carbonate and 5 mL of 2-butanone were loaded into a round bottom flask having a volume of 100 mL, and then the mixture was stirred at −20° C. A solution prepared by dissolving 550 mg (2 mmol) of 1-ethyl-3-methylimidazolium phenylalanine salt in 15 mL of 2-butanone was slowly dropped to the solution, and then the mixture was stirred at −20° C. for 8 hours. After that, a 1M aqueous HCl solution was added to the mixture to terminate the reaction. The resultant was concentrated with an evaporator. Next, water was added to the concentrated product, and then the resultant was extracted with ethyl acetate. After that, the resultant was concentrated with an evaporator. Thus, a crude product was obtained. Next, the crude product was purified by column chromatography. Thus, N-phenoxycarbonyl-L-phenylalanine was obtained. An isolation amount and an isolation yield were 528.9 mg and 93%, respectively.

reactant | diphenyl carbonate | 2 mmol, 430 mg | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
reactant | 1-ethyl-3-methylimidazolium phenylalanine salt | 2 mmol, 550 mg | N[C@@H](CC1=CC=CC=C1)C(=O)[O-].C(C)[N+]1=CN(C=C1)C
reactant | HCl | 1M | Cl | ClH
solvent | 2-butanone | 15 mL | CC(CC)=O | C4H8O
solvent | 2-butanone | 5 mL | CC(CC)=O | C4H8O
product | N-phenoxycarbonyl-L-phenylalanine | O(C1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C16H15NO4
